US04921524
Chlorosulphonic acid (20 ml) was added dropwise to an ice-cold solution of 3-hydroxy-2-propionyl-4-(4-methylphenyl)cyclohex-2-ene-1-one (3.25 g) in chloroform (40 ml). After stirring at room temperature for 4 hours, the mixture was carefully poured onto ice. The chloroform layer was separated and the aqueous phase extracted with more chloroform. The combined extracts were dried over magnesium sulphate, filtered and the chloroform evaporated in vacuo to give 3-hydroxy-2-propionyl-4-(3-chlorosulphonyl-4-methylphenyl)cyclohex-2-ene-1-one (4.4 g). Water (50 ml) was added to the latter, followed by dimethylamine (2 g) and the solution stirred at room temperature for 1/2 hour. The solution was acidified with dilute hydrochloric acid, and extracted with dichloromethane. After drying over magnesium sulphate, the dichloromethane was evaporated in vacuo to give a pale yellow oil. Purification on a silica gel column using chloroform as eluant gave the title compound (4.0 g) as a white solid of m.p. 95°-97° C.

reactant | Chlorosulphonic acid | 20 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3-hydroxy-2-propionyl-4-(4-methylphenyl)cyclohex-2-ene-1-one | 3.25 g | OC1=C(C(CCC1C1=CC=C(C=C1)C)=O)C(CC)=O | C16H18O3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-hydroxy-2-propionyl-4-(3-chlorosulphonyl-4-methylphenyl)cyclohex-2-ene-1-one | 4.4 g | OC1=C(C(CCC1C1=CC(=C(C=C1)C)S(=O)(=O)Cl)=O)C(CC)=O | C16H17ClO5S
